US06677347B2
2-(2-Methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 2.92 mmol) was dissolved in 30 mL of anhydrous CH2Cl2 and cooled to 0° C. under N2. To the stirred solution were added Et3N (0.81 mL, 5.81 mmol) and methanesulfonyl chloride (226 μL, 2.92 mmol) and the reaction was allowed to warm to room temperature overnight. The reaction mixture was then quenched by addition of saturated NaHCO3 solution (30 mL) and CH2Cl2 (30 mL). The organic layer was separated and washed with H2O and brine, dried over Na2SO4 and concentrated under reduced pressure. Crystallization of the residue from EtOAc and CH2Cl2 gave 756 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)-N-methylmethanesulfonamide as tan crystals. m.p. 145.0-146.5° C.;

reactant | 2-(2-Methoxyethyl)-1-{2-[2-(methylamino)ethoxy]ethyl}-1H-imidazo[4,5-c]quinolin-4-amine | 2.92 mmol, 1.00 g | COCCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCOCCNC | C18H25N5O2
reactant | Et3N | 5.81 mmol, 0.81 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.92 mmol, 226 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)-N-methylmethanesulfonamide | 756 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCN(S(=O)(=O)C)C)CCOC | C19H27N5O4S
